US06284894B1
To a solution of t-butylnitrite (535 μl, 4.5 mmol) and allyl bromide (3.9 ml, 45.0 mmol) in CH3CN (3 ml), 4-aminobenzonitrile (354 mg, 3.0 mmol) was added during 20 minutes, while maintaining the temperature of the reaction mixture at 42-44° C. At the end of the addition of the aniline, extra t-butylnitrite (180 μl, 1.5 mmol) was added to the reaction mixture which then was stirred at 50° C. for three hours during which extra t-butylnitrite (180 μl, 1.5 mmol) was added. The volatile material in the reaction mixture was removed at reduced pressure. Heptane-ethyl acetate (10 ml, 1:1) was then added to the crude product and the mixture was filtered. Column chromatography (heptane-ethyl acetate 49:1) of the concentrated filtrate gave 160 mg (37%) 4-allyl-benzonitrile as a clear oil containing 16% of 4-bromo-benzonitrile. This corresponds to 30% yield of 4-allylbenzonitrile. 1H NMR (CDCl3, 400 MHz) δ 7.60, (m, 2H, J=8.3 Hz), 7.31, (m, 2H, J=8.3 Hz), 5.99-5.88, (m, 1H), 5.18-5.08, (m, 2H), 3.46, (d, 2H, J=6.7 Hz); Anal HRMS Calcd. for C10H9N (M): 143.0735. Found: 143.0734.

reactant | t-butylnitrite | 4.5 mmol, 535 μl | C(C)(C)(C)ON=O | C4H9NO2
reactant | allyl bromide | 45.0 mmol, 3.9 ml | C(C=C)Br | C3H5Br
reactant | 4-aminobenzonitrile | 3.0 mmol, 354 mg | NC1=CC=C(C#N)C=C1 | C7H6N2
reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | t-butylnitrite | 1.5 mmol, 180 μl | C(C)(C)(C)ON=O | C4H9NO2
reactant | t-butylnitrite | 1.5 mmol, 180 μl | C(C)(C)(C)ON=O | C4H9NO2
solvent | CH3CN | 3 ml | CC#N | C2H3N
product | 4-allyl-benzonitrile | 160 mg, 37% | C(C=C)C1=CC=C(C#N)C=C1 | C10H9N
